US06444694B1
2-[2-(3,4-Dimethoxyphenyl)-vinyl]-4,7-dimethoxy-5,6-dimethyl-1H-benzoimidazole
A mixture of 2,3-dimethyl-5,6-diamino-1,4-dimethoxybenzene (2.57 g; 10 mmol) and methyl-(3,4-dimethoxy)-cinnamoimidate hydrochloride (1.96 g; 10 mmol) in methanol (35 mL) was stirred at ambient temperature for 18 hours. The methanol solution was concentrated to 15 mL. The yellow precipitate was separated by filtration. Recrystallization from MeOH afforded 2.1 g (58% yield) of the title compound as yellow solid, m.p. 116-119° C. Anal. Calcd. for C21H24N2O4: C, 66.46, H, 6.57; N, 7.60. Found: C, 66.83; H, 6.64; N, 7.41. Mass spectrum: (EI,M+) m/z 368 1H-NMR (DMSO-d6; 400 MHz) δ12.4-12.5(broad s,1H), 7.6-7.4 (d, 1H), 7.2 (d, 1H), 7.07-7.16 (m, 2H), 7.0 (d, 1H), 3.84(s, 3H), 3.78 (s, 3H), 2.2 ppm (s, 3H).

reactant | 2,3-dimethyl-5,6-diamino-1,4-dimethoxybenzene | 10 mmol, 2.57 g | CC1=C(C(=C(C(=C1C)OC)N)N)OC | C10H16N2O2
reactant | methyl-(3,4-dimethoxy)-cinnamoimidate hydrochloride | 10 mmol, 1.96 g | Cl.COC(C=CC1=CC(=C(C=C1)OC)OC)=N
solvent | methanol | 35 mL | CO | CH4O
product | 2-[2-(3,4-Dimethoxyphenyl)-vinyl]-4,7-dimethoxy-5,6-dimethyl-1H-benzoimidazole | 2.1 g, 58% yield | COC=1C=C(C=CC1OC)C=CC1=NC2=C(N1)C(=C(C(=C2OC)C)C)OC | C21H24N2O4
